US05034410
(2-chloro-4-cyanoaniline)
To a stirred, 60° C. solution of 4-cyanoaniline (20 g, 0.169 mol) in acetonitrile (200 mL) was added slowly N-chlorosuccinimide (24.8 g, 0.186 mol) to keep the reaction at reflux. After the addition of the N-chlorosuccinimide was complete, the reaction mixture was stirred at 60° C. for two hours. The solvent was then removed under reduced pressure. The residue was then dissolved in dichloromethane, washed with a 5% sodium hydroxide solution, dried (Na2SO4) and evaporated under reduced pressure to afford 24.5 g (95%) of the title compound, 2-chloro-4-cyanoaniline, as a tan solid; m.p. 93°-95° C.

reactant | 4-cyanoaniline | 0.169 mol, 20 g | C(#N)C1=CC=C(N)C=C1 | C7H6N2
reactant | N-chlorosuccinimide | 0.186 mol, 24.8 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 2-chloro-4-cyanoaniline | 24.5 g, 95% | ClC1=C(N)C=CC(=C1)C#N | C7H5ClN2
